US08980934B2
Cyclopropyl(thiazol-2-yl)methanone
A mixture of cyclopropyl(thiazol-2-yl)methanol (327 mg, 2.1 mmol) and MnO2 (1.0 g, 11 mmol) in DCM (10 mL) was stirred at rt for 2 days. The mixture was diluted with DCM, filtered through a cake of Celite and the filtrate was concentrated to give the title compound as a colourless oil (278 mg, 86%). The product used without further purification. 1H NMR (400 MHz, CDCl3) δ ppm 7.93 (d, J=3.0 Hz, 1H), 7.61 (d, J=3.0 Hz, 1H), 3.05-3.22 (m, 1H), 1.16-1.30 (m, 2H), 0.98-1.11 (m, 2H); MS ESI 154.0 [M+M]+, calcd for [C7H7NOS+H]+ 154.0.

reactant | cyclopropyl(thiazol-2-yl)methanol | 2.1 mmol, 327 mg | C1(CC1)C(O)C=1SC=CN1 | C7H9NOS
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 11 mmol, 1.0 g | O=[Mn]=O
product | Cyclopropyl(thiazol-2-yl)methanone | 278 mg, 86% | C1(CC1)C(=O)C=1SC=CN1 | C7H7NOS
